US08222263B2
A solution of ethyl 2-oxocyclopentanecarboxylate (15.6 g, 0.10 mol), urea (9.0 g 0.15 mol) and hydrochloric acid (37%, aqueous, 5 mL) in EtOH (100 mL) was heated to 80° C. for 24 h. The mixture was cooled to rt and the precipitate was collected by filtration and dried to afford 6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione (11.1 g, 73%) as a white solid.

reactant | ethyl 2-oxocyclopentanecarboxylate | 0.10 mol, 15.6 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | urea | 0.15 mol, 9.0 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
product | 6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione | 11.1 g, 73% | N1C(NC(C2=C1CCC2)=O)=O | C7H8N2O2
